US06660744B1
The solution of 3-fluoroanisole (3.36 g, 0.0266 mol) in anhydrous tetrahydrofuran was cooled to −78° C. and 1.4M solution of n-butyllithium in hexanes (19 mL, 0.0266 mol) was added dropwise keeping the reaction mixture temperature below −75° C. Upon the completion of the addition, N,N,N′,N′,N″-pentamethyldiethylenetriamine was added dropwise and the stirring at −78° C. was continued under an atmosphere of nitrogen for an additional two hours. N,N-dimethylformamide (3.89 g, 0.0532 mol) was added dropwise and the reaction mixture was slowly warmed up while stirring for half an hour. It was quenched by dropwise addition of 1N hydrochloric acid and the layers were separated. The aqueous phase was further extracted with ethyl acetate (2×150 mL) and the combined organic extracts were dried with magnesium sulfate. The organic phase was concentrated under reduced pressure and the residue was triturated in n-heptane. The precipitate was collected by filtration and dried to yield 2-fluoro-6-methoxybenzaldehyde (2.95 g, 0.0191 mol) as an off-white solid.

reactant | 3-fluoroanisole | 0.0266 mol, 3.36 g | FC=1C=C(C=CC1)OC | C7H7FO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N,N′,N′,N″-pentamethyldiethylenetriamine | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | N,N-dimethylformamide | 0.0532 mol, 3.89 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-fluoro-6-methoxybenzaldehyde | 0.0191 mol, 2.95 g | FC1=C(C=O)C(=CC=C1)OC | C8H7FO2
